US04710573
6-Fluoro-1-methyl-3-(4-piperidinyl)-1H-indazole hydrochloride
A solution of 16.8 g of 3-(1-acetyl-4-piperidinyl)-6-fluoro-1-methyl-1H-indazole and 100 ml of 6N hydrochloric acid was heated under reflux for 4 hrs. The solution was cooled in an ice bath, 50% aqueous sodium hydroxide was added, dropwise, with stirring and the mixture was extracted with ethyl acetate. Concentration of the organic extract gave an oil. The oil was dissolved in ethyl acetate and a saturated solution of ethyl acetate-hydrogen chloride was added. The salt was recrystallized twice from trichloromethane-ether and then from isopropanol (charcoal) to yield 3.0 g (21%) of product, mp 256°-258° C.

reactant | 3-(1-acetyl-4-piperidinyl)-6-fluoro-1-methyl-1H-indazole | 16.8 g | C(C)(=O)N1CCC(CC1)C1=NN(C2=CC(=CC=C12)F)C | C15H18FN3O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Fluoro-1-methyl-3-(4-piperidinyl)-1H-indazole hydrochloride | 3.0 g, 21% | Cl.FC1=CC=C2C(=NN(C2=C1)C)C1CCNCC1 | InChI=1S/C13H16FN3.ClH/c1-17-12-8-10(14)2-3-11(12)13(16-17)9-4-6-15-7-5-9;/h2-3,8-9,15H,4-7H2,1H3;1H
